US07094831B2
Transdermal Therapeutic System With Propranolol
40.0 g of N-pyrrolidone, 20.0 g of propranolol HCl and 20.0 g of polyvinylpyrrolidone with a K value of 90 are dissolved in 40.0 g of demineralized water. This solution is incorporated into 333.3 g of 30% strength polyvinyl acetate dispersion of the invention while stirring. A 200 μm knife is used to spread this mixture onto a 40 μm-thick polyester sheet, which is then dried at 60° C. The spreading process is repeated once more to increase the layer thickness. After covering the polymer layer with a siliconized released liner it is possible to punch out any desired shapes.

reactant | N-pyrrolidone | 40.0 g | [N-]1C(CC=C1)=O
reactant | propranolol HCl | 20.0 g | CC(C)NCC(COC=1C=CC=C2C1C=CC=C2)O.Cl
solvent | water | 40.0 g | O | H2O
product | Propranolol | CC(C)NCC(COC=1C=CC=C2C1C=CC=C2)O | C16H21NO2
